US08426604B2
B. (4-Methylsulfanyl-2-trifluoromethyl-phenyl)-methanol
4-Methylsulfanyl-2-trifluoromethyl-benzaldehyde (4.87 mmol) was dissolved in mL of MeOH and the resulting solution was treated with NaBH4 (221.1 mg, 5.84 mmol). The reaction mixture was stirred at room temperature for 2 h. The solvent was evaporated and the residue was partitioned between CH2Cl2 and 1N HCl solution. The combined extracts were washed with brine, dried over Na2SO4. A small portion of extracts was evaporated to afford the desired product.

reactant | 4-Methylsulfanyl-2-trifluoromethyl-benzaldehyde | 4.87 mmol | CSC1=CC(=C(C=O)C=C1)C(F)(F)F | C9H7F3OS
reactant | NaBH4 | 5.84 mmol, 221.1 mg | [BH4-].[Na+]
solvent | MeOH | CO | CH4O
product | (4-Methylsulfanyl-2-trifluoromethyl-phenyl)-methanol | CSC1=CC(=C(C=C1)CO)C(F)(F)F | C9H9F3OS
